US07851493B2
To a solution of 2.63 g 2-chloro-4-hydroxy-benzonitrile in 25 ml dimethylformamide were added 4.0 g 5-chloromethyl-4-methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazole and 8.58 g cesium carbonate. The mixture was stirred at room temperature overnight. Then 150 ml of ethyl acetate were added, the mixture washed with 40 ml water and brine and then dried over MgSO4. The solvent was removed in vacuo. The resulting crude material was purified by RP-HPLC to obtain 3.0 g 2-chloro-4-{4-methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazol-5-ylmethoxy}-benzonitrile.

reactant | 2-chloro-4-hydroxy-benzonitrile | 2.63 g | ClC1=C(C#N)C=CC(=C1)O | C7H4ClNO
reactant | 5-chloromethyl-4-methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazole | 4.0 g | ClCC1=C(N=C(O1)CCC1=CC=C(C=C1)C(F)(F)F)C | C14H13ClF3NO
reactant | cesium carbonate | 8.58 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-chloro-4-{4-methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazol-5-ylmethoxy}-benzonitrile | 3.0 g | ClC1=C(C#N)C=CC(=C1)OCC1=C(N=C(O1)CCC1=CC=C(C=C1)C(F)(F)F)C | C21H16ClF3N2O2
